US08703767B2
12. Preparation of N-(3-(6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide
2,2,2-Trifluoroacetic acid (0.40 mL, 5.218 mmol) was added to a solution of N-(3-(6-chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide (20 mg, 0.052 mmol) in CH2Cl2 (4 mL) and the reaction mixture was stirred for 16 h at room temperature. The solvent was then removed in vacuo. The residue was purified by flash chromatography (6% CH3OH/CH2Cl2) to yield the title compound as an off white solid. 1H NMR (400 MHz, CDCl3): δ 8.72 (s, 1H), 8.59 (s, 1H), 8.01 (d, 1H, J=7.2 Hz), 7.82 (m, 1H), 7.57 (t, 1H, J=8.0 Hz), 6.43 (m, 2H), 5.80 (dd, 1H, J=2.8 and 8.8 Hz); ESI-MS: 300.10 [M+H]+.

reactant | 2,2,2-Trifluoroacetic acid | 5.218 mmol, 0.40 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(3-(6-chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | 0.052 mmol, 20 mg | ClC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C19H18ClN5O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | ClC1=NC(=C2C(=N1)NN=C2)C=2C=C(C=CC2)NC(C=C)=O | C14H10ClN5O
